US08222416B2
To a solution of 1-[1-benzenesulfonyl-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone (1 g, 2.3 mmol) in dry tetrahydrofuran (60 mL) at −78° C. was added lithium bis(trimethylsilyl)amide solution in tetrahydrofuran (1 M, 3.4 mL, 3.4 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (1.3 g, 3.98 mmol) in tetrahydrofuran (25 mL) was added dropwise. The resulting mixture was kept at −78° C. for an additional 1.5 h. The reaction was quenched with water, extracted with ethyl acetate (200 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 20% ethyl acetate/hexanes) afforded toluene-4-sulfonic acid 1-[1-benzenesulfonyl-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-vinyl ester (1 g, 74.1%) as a light yellow solid: LC/MS m/e calcd for C31H30N2O6S2 [M+H]+ 591.72, observed 591.1.

reactant | 1-[1-benzenesulfonyl-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone | 2.3 mmol, 1 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C#CCOC)C(CC2CCCC2)=O | C24H24N2O4S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 3.98 mmol, 1.3 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.4 mmol, 1 M, 3.4 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-[1-benzenesulfonyl-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-vinyl ester | 1 g, 74.1% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C#CCOC)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C31H30N2O6S2
